US06903126B2
6-[[1-(4-Methylphenyl)-2-(piperidin-1-yl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
240 mg of 6-[[2-chloro-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was mixed with 0.2 ml of N,N-dimethylformamide and 0.75 ml of piperidine, and the mixture was stirred for 7.5 hours at 110° C. Another 0.75 ml of piperidine was added, and it was heated for another 4 hours at 110° C. It was mixed with water, extracted with ethyl acetate, the organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 16 mg was obtained.

reactant | 6-[[2-chloro-1-(4-methylphenyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 240 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)Cl)C2=CC=C(C=C2)C)C1)=O | C21H23ClN2O3
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | piperidine | 0.75 ml | N1CCCCC1 | C5H11N
reactant | piperidine | 0.75 ml | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 6-[[1-(4-Methylphenyl)-2-(piperidin-1-yl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)N2CCCCC2)C2=CC=C(C=C2)C)C1)=O | C26H33N3O3
